US07084154B2
Benzyl chloroformate (0.30 mL) was added to an ice-cold solution of 6-methoxy-1-methyl-3,4-dihydroisoquinoline (0.36 g) and triethylamine (0.58 mL) in 10 mL dichloromethane. After 0.5 h, the volatile material was evaporated to furnish 0.66 g of 6-methoxy-1-methylene-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester.

reactant | Benzyl chloroformate | 0.30 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 6-methoxy-1-methyl-3,4-dihydroisoquinoline | 0.36 g | COC=1C=C2CCN=C(C2=CC1)C | C11H13NO
reactant | triethylamine | 0.58 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 6-methoxy-1-methylene-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.66 g | C(C1=CC=CC=C1)OC(=O)N1C(C2=CC=C(C=C2CC1)OC)=C | C19H19NO3
